US06063928
B. 4-[3-(Benzyloxy)-5-fluorophenyl]-4formyl-3,4,5,6-tetrahydro-2H-pyran
Tetra-n-propylammonium perruthenate (70 mg, 0.2 mmol) was added in one portion to a stirred mixture of 4-[3-(benzyloxy)-5-fluorophenyl]-4-hydroxymethyl-3,4,5,6-tetrahydro-2H-pyran (1.28 g, 4.0 mmol), N-methylmorpholine N-oxide (0.70 g, 6.0 mmol) and powdered 3 Å molecular sieves (2.0 g) at room temperature under nitrogen atmosphere. After 20 min tetra-n-propylammonium perruthenate (30 mg, 0.085 mmol) and N-methylmorpholine N-oxide (0.30 g, 2.6 mmol) were added and stirring continued for 30 min. The mixture was chromatographed (silica-gel, 110 g: 25% ethyl acetate in n-hexane) to give the titled compound as a colorless liquid (1.08 g, 86%).

reactant | 4-[3-(benzyloxy)-5-fluorophenyl]-4-hydroxymethyl-3,4,5,6-tetrahydro-2H-pyran | 4.0 mmol, 1.28 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CCOCC1)CO | C19H21FO3
reactant | N-methylmorpholine N-oxide | 6.0 mmol, 0.70 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | N-methylmorpholine N-oxide | 2.6 mmol, 0.30 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | Tetra-n-propylammonium perruthenate | 0.2 mmol, 70 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
catalyst | tetra-n-propylammonium perruthenate | 0.085 mmol, 30 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 4-[3-(Benzyloxy)-5-fluorophenyl]-4formyl-3,4,5,6-tetrahydro-2H-pyran | 1.08 g, 86% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CCOCC1)C=O | C19H19FO3
